US05607936
Step A: 1-t- Butoxycarbonyl-4-(2-(methylthiomethyl)phenyl)-piperazine
Potassium t-butoxide (159 mg, 1,42 mmol) in 15 mL of abs. EtOH was saturated with methyl mercaptan gas. To this mixture was added 1-t-butoxycarbonyl-4-(2-(methanesulfonyloxymethyl)phenyl)-piperazine (0.94 mmol, which was generated according to the procedure described in Step C of Example 9). The resulting mixture was refluxed for 50 min and concentrated. The residue was purified by preparative TLC (20% EtOAc in Hex) to give the title compound (157 mg).

reactant | Potassium t-butoxide | 1,42 mmol, 159 mg | CC(C)([O-])C.[K+]
reactant | methyl mercaptan | CS | CH4S
reactant | 1-t-butoxycarbonyl-4-(2-(methanesulfonyloxymethyl)phenyl)-piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)COS(=O)(=O)C | C17H26N2O5S
solvent | EtOH | CCO | C2H6O
product | 1-t- Butoxycarbonyl-4-(2-(methylthiomethyl)phenyl)-piperazine | 157 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CSC | C17H26N2O2S
